US05958942
ii) Synthesis of 3-carboethoxy-5-chloromethylimidazo[1,2-a]pyridine
To a solution prepared by dissolving 430 mg (2.06 mM) of 3-carbethoxy-5-methylimidazo[1,2-a]pyridine in 10 ml of ethyl acetate was added 330 mg (2.67 mM) of N-chlorosuccinimide. Then, 1.03 ml (1.03 mM) of 1N-tri-fluoroacetic acid-ethyl acetate was added dropwise at room temperature. The mixture was stirred under argon gas at room temperature for 14 hours. After the reaction, the reaction mixture was poured in 30 ml of saturated aqueous NaHCO3 solution with ice-cooling and the mixture was extracted with 20 ml of ethyl acetate. The organic layer was washed with 30 ml of saturated aqueous NaCl solution and dried over MgSO4. The solvent was then distilled off under reduced pressure and the residue was purified by silica gel column chromatography (eluent: ethyl acetate) to provide 350 mg (yield 71.2%) of the title compound as yellow liquid.

reactant | 3-carbethoxy-5-methylimidazo[1,2-a]pyridine | 2.06 mM, 430 mg | C(=O)(OCC)C1=CN=C2N1C(=CC=C2)C | C11H12N2O2
reactant | N-chlorosuccinimide | 2.67 mM, 330 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | tri-fluoroacetic acid ethyl acetate | FC(C(=O)O)(F)F.C(C)(=O)OCC
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | NaHCO3 | 30 ml | C(=O)(O)[O-].[Na+]
product | 3-carboethoxy-5-chloromethylimidazo[1,2-a]pyridine | 350 mg, yield 71.2% | C(=O)(OCC)C1=CN=C2N1C(=CC=C2)CCl | C11H11ClN2O2
